US07795326B2
Preparation of Poly(TRIS/N-vinylpyrrolidone/methacrylic acid) (TRIS/NVP/MAA)—14/1/1 parts by weight
A 25 ml reaction vessel was charged with 12 g ethyl acetate, 3.54 g (0.008 mol) TRIS, 0.26 g (0.002 mol) NVP, 0.21 g (0.002 mol) methacrylic acid (MA) and 0.08 g. 2,2′-azobis(2-methylbutanenitrile). After nitrogen flushing for 3 minutes, the vessel was closed and placed in an oil bath. The polymerization was run for 16 hours at 63-82° C. The polymer was precipitated into water, filtered, dissolved in acetone, precipitated in water and dried at 50° C. resulting in a 58% yield. The polymer was partially soluble in HMDS at 10 wt % polymer in the liquid. When cast on glass the dried film had a moderate number of domains between 0.01 mm and 0.05 mm (test defined, Examples 28-30). A 10 mil thick film of the dried polymer had a moisture vapor transmission rate of 199 g/m2/24 hr. The dried film had an elongation of 87% (test defined, Examples 15-24). When applied to human forearm the dried polymer film adhered for 3 days.

reactant | ethyl acetate | 12 g | C(C)(=O)OCC | C4H8O2
reactant | methacrylic acid | 0.002 mol, 0.21 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 2,2′-azobis(2-methylbutanenitrile) | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | HMDS | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | N-vinylpyrrolidone methacrylic acid | 58% yield | C(=C)N1C(CCC1)=O.C(C(=C)C)(=O)O | InChI=1S/C6H9NO.C4H6O2/c1-2-7-5-3-4-6(7)8;1-3(2)4(5)6/h2H,1,3-5H2;1H2,2H3,(H,5,6)
